US07125901B2
A mixture of 2-methyl-N-{4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}propanamide (333 mg), palladium on carbon (33 mg), acetic acid (1 ml), methanol (2 ml) and tetrahydrofuran (2 ml) was stirred under hydrogen atmosphere (4 atm) at ambient temperature for 5 hours. The catalyst was filtered off, and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with 5% methanol/ethyl acetate as an eluent. The solid residue was collected and washed with diisopropyl ether to give N-{4-[2-(4-aminophenyl)ethyl]-1,3-thiazol-2-yl}-2-methylpropanamide (260 mg).

reactant | 2-methyl-N-{4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}propanamide | 333 mg | CC(C(=O)NC=1SC=C(N1)\C=C\C1=CC=C(C=C1)[N+](=O)[O-])C | C15H15N3O3S
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 2 ml | CO | CH4O
catalyst | palladium on carbon | 33 mg | [Pd] | Pd
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-{4-[2-(4-aminophenyl)ethyl]-1,3-thiazol-2-yl}-2-methylpropanamide | 260 mg | NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C(C)C)=O | C15H19N3OS
